US05998433
g) Synthesis of 1-(5,7-dihydro-4H-thieno[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one
To a solution of 0.272 g (1.548 mmol) of 4,5,6,7-tetrahydrothieno[2,3-c]pyridine hydrochloride, 0.33 g (1.7 mmol) of 6-phenylhexanoic acid and 0.86 ml (6.2 mmol) of triethylamine in 30 ml of dichloromethane, 0.28 ml (1.9 mmol) of diethyl cyanophosphonate was added dropwise under ice-cooling, followed by overnight stirring at room temperature. The reaction mixture was poured into aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1 to 3/1) to yield the desired product.

reactant | 4,5,6,7-tetrahydrothieno[2,3-c]pyridine hydrochloride | 1.548 mmol, 0.272 g | Cl.S1C=CC2=C1CNCC2
reactant | 6-phenylhexanoic acid | 1.7 mmol, 0.33 g | C1(=CC=CC=C1)CCCCCC(=O)O | C12H16O2
reactant | triethylamine | 6.2 mmol, 0.86 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 1.9 mmol, 0.28 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(5,7-dihydro-4H-thieno[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one | S1C=CC2=C1CN(CC2)C(CCCCCC2=CC=CC=C2)=O | C19H23NOS
